US08859782B2
5,5-Dimethyl-3-(3-methylphenyl)pyrrolidine-2,4-dione
Under argon, in a heat-dried apparatus, 1.0 g of solid sodium hydroxide (in the form of so-called “Micropills”) and 15 ml of water- and air-free N-methylpyrrolidone (NMP) are introduced as initial charge. With stirring, 1.907 g of 5,5-dimethylpyrrolidine-2,4-dione are then added and the mixture is stirred for 20 minutes at room temperature. 1.71 g of 3-bromotoluene are then added and the reaction mixture is heated to 125° C. At this temperature, 0.328 g of triphenylphosphine and 89 mg of PdCl2 are then added. The mixture is stirred for 4 hours at 125° C., left to cool to room temperature, stirred into 20 ml of ice-water and adjusted to pH 2 using dilute hydrochloric acid. 20 ml of methylene chloride are added, the mixture is stirred, the phases are separated and the aqueous phase is extracted by shaking two more times with 10 ml of methylene chloride in each case. The combined organic phases are dried and then concentrated on a rotary evaporator. This gives 1.82 g of target product (corresponding to a yield of 84% of theory).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5,5-dimethylpyrrolidine-2,4-dione | 1.907 g | CC1(C(CC(N1)=O)=O)C | C6H9NO2
reactant | 3-bromotoluene | 1.71 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | triphenylphosphine | 0.328 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | Cl | ClH
catalyst | PdCl2 | 89 mg | Cl[Pd]Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | water | 15 ml | O | H2O
product | 5,5-Dimethyl-3-(3-methylphenyl)pyrrolidine-2,4-dione | yield of 84% | CC1(C(C(C(N1)=O)C1=CC(=CC=C1)C)=O)C | C13H15NO2
